US04563465
A stirred mixture of tropine hydrochloride (5.27 g) and 3,5-dimethylbenzoyl chloride (5 g) is heated at 130°-140° C. for 30 minutes during which time the mixture liquifies, evolves hydrogen chloride gas and resolidifies. A solution of the cooled solid in water is basified with a solution of potassium carbonate and the base extracted with ethyl acetate. The ethyl acetate solution is washed several times with water, dried over mangnesium sulphate, and evaporated to yield the free base which is converted to the hydrochloride by the addition of ethereal hydrogen chloride. Recrystallization of the precipitated solid from ethanol yields tropyl 3,5-dimethylbenzoate hydrochloride (5.4 g) m.p. 260° C.

reactant | tropine hydrochloride | 5.27 g | CN1[C@@H]2CC[C@H]1CC(C2)O.Cl
reactant | 3,5-dimethylbenzoyl chloride | 5 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | hydrogen chloride | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | tropyl 3,5-dimethylbenzoate hydrochloride | 5.4 g | CC1=CC(=CC(=C1)C(=O)OC2C[C@H]3CC[C@@H](C2)N3C)C.Cl | InChI=1S/C17H23NO2.ClH/c1-11-6-12(2)8-13(7-11)17(19)20-16-9-14-4-5-15(10-16)18(14)3;/h6-8,14-16H,4-5,9-10H2,1-3H3;1H/t14-,15+,16?;
